US04456752
0.73 g. (0.002 moles) of 9,9-dibromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are dissolved in 2 ml. of dimethyl sulfoxide. To the solution 0.2 ml. (0.002 moles) of phenyl hydrazine and 0.5 ml. (0.004 moles) of N,N-dimethylaniline are added. Thereafter the reaction mixture is allowed to stand for three days. The precipitated crystals are filtered off and washed with methanol. The product is purified by alkaline/acidic precipitation. 0.4 g. (64.0%) of 9-(phenylhydrazono)-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are obtained, melting at 254° to 255° C.

reactant | 9,9-dibromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.002 moles | BrC1(CCC(N2C1=NC=C(C2=O)C(=O)O)C)Br | C10H10Br2N2O3
reactant | phenyl hydrazine | 0.002 moles | C1(=CC=CC=C1)NN | C6H8N2
reactant | N,N-dimethylaniline | 0.004 moles | CN(C1=CC=CC=C1)C | C8H11N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 9-(phenylhydrazono)-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 64.0% | C1(=CC=CC=C1)NN=C1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C16H16N4O3
